US04105790
Ethyl 2-[4-acetylphenoxy]-2-methylpropionate was brominated using an analogous procedure to that described for 4-[4-(bromoacetyl)phenoxyacetyl]morpholine, used as a starting material for Example 6, to give ethyl 2-[4-(bromoacetyl)phenoxy]-2-methylpropionate as an oil, which was pure by thin layer chromatographic (TLC) analysis (on silica plates; eluant : 50% ether/50% petrol).

reactant | Ethyl 2-[4-acetylphenoxy]-2-methylpropionate | C(C)(=O)C1=CC=C(OC(C(=O)OCC)(C)C)C=C1 | C14H18O4
reactant | 4-[4-(bromoacetyl)phenoxyacetyl]morpholine | BrCC(=O)C1=CC=C(OCC(=O)N2CCOCC2)C=C1 | C14H16BrNO4
product | ethyl 2-[4-(bromoacetyl)phenoxy]-2-methylpropionate | BrCC(=O)C1=CC=C(OC(C(=O)OCC)(C)C)C=C1 | C14H17BrO4
